US04792208
N,N-dioctadecylaminobenzaldehyde
Phosphorus oxychloride (15.3 g, 0.1 mole) was added dropwise with stirring, at 5° C., under nitrogen, to N,N-dimethylformamide (DMF, 50 mL). The resulting orange solution was stirred for 2 hours, then 42 g (0.08 mole) of N,N-dioctadecylaniline was added all at once. The reaction mixture was heated in a water bath to 90° C., and stirring was continued for 4 hours. The hot solution was poured over 200 g of crushed ice and naturalized to pH 6 by a slow addition of solid sodium acetate with vigorous stirring. The greenish-tint crystalline precipitate was filtered by suction, washed with water on the filter and air dried. The light green product was recrystallized from isopropanol to yield 46.5 g (93%) of pale-green crystals mp 65°-66° C.

reactant | Phosphorus oxychloride | 0.1 mole, 15.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dioctadecylaniline | 0.08 mole, 42 g | C(CCCCCCCCCCCCCCCCC)N(C1=CC=CC=C1)CCCCCCCCCCCCCCCCCC | C42H79N
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | N,N-dioctadecylaminobenzaldehyde | 46.5 g, 93% | C(CCCCCCCCCCCCCCCCC)N(CCCCCCCCCCCCCCCCCC)C1=C(C=O)C=CC=C1 | C43H79NO
